US04420631
To a solution of 21.8 g of 2-(p-prenylphenyl)propionic acid in 17.6 ml of pyridine and 200 ml of benzene was added dropwise a solution of 7.9 ml of thionyl chloride in 15 ml of benzene with stirring at 4° C. After one hour, 14.8 g of isobutyl alcohol was added. The mixture was stirred at room temperature for one hour and then at 60° C. for 2 hours. After cooling, the solution was washed with water, 2 N hydrochloric acid, water, 5% aqueous sodium hydroxide and water successively, and dried over anhydrous magnesium sulfate. The solvent was evaporated to give 20.1 g of isobutyl 2-(p-prenylphenyl)propionate. b.p. 126°-127° C./0.10 mmHg, IR νmaxneat ; 1730 cm-1.

reactant | 2-(p-prenylphenyl)propionic acid | 21.8 g | C(C=C(C)C)C1=CC=C(C=C1)C(C(=O)O)C | C14H18O2
reactant | thionyl chloride | 7.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | isobutyl alcohol | 14.8 g | C(C(C)C)O | C4H10O
solvent | pyridine | 17.6 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | isobutyl 2-(p-prenylphenyl)propionate | 20.1 g | C(C=C(C)C)C1=CC=C(C=C1)C(C(=O)OCC(C)C)C | C18H26O2
